US05610174
Synthesis of 1-(6,7-Dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)ethanone.
To a stirred solution of 6,7-dimethoxy-1,2, 3,4-tetrahydroisoquinoline (3.00 g, 15.4 mmol, 1.00 equiv) in anhydrous pyridine (100 mL) under argon at room temperature was added acetic anhydride (14.5 mL, 154 mmol, 10.0 equiv) over 15 min. The resulting mixture was stirred at room temperature for 2 h, and then at reflux for 6 h. The volatiles were removed by rotary evaporation at 80° C. under high vacuum. The residue was flash chromatographed on silica gel (MeOH-CH2Cl2 8:92) to afford 3.21 g (89%) of viscous brown oil. The 1H NMR spectrum reflected the presence of two slowly interconverting conformers in a ratio of 1.2 :1 at room temperature. 1H NMR (300 MHz, CDCl3) for conformer 1: δ 2.18 (s, 3 H), 2.83 (t, J=5.9 Hz, 2 H), 3.67 (t, J=5.9 Hz, 2 H), 3.86 (s, 3 H), 3.87 (s, 3 H), 4.66 (s, 2 H), 6.63 (s, 1 H), 6.65(s, 1 H). For conformer 2:δ 2.19 (s, 3 H), 2.77 (t, J=5.9 Hz, 2 H), 3.81 (t, J=5.9 Hz, 2 H), 3.86 (s, 3 H), 3.87 (s, 3 H), 4.56 (s, 2 H), 6.59 (s, 1 H), 6.63 (s, 1 H).

reactant | 6,7-dimethoxy-1,2, 3,4-tetrahydroisoquinoline | 15.4 mmol, 3.00 g, 1.00 equiv | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | acetic anhydride | 154 mmol, 14.5 mL, 10.0 equiv | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 1-(6,7-Dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)ethanone | 3.21 g, 89% | COC=1C=C2CCN(CC2=CC1OC)C(C)=O | C13H17NO3
